US07943776B2
5-(benzyloxy)-N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}pyridine-2-carboxamide
The title compound was prepared from 5-(benzyloxy)pyridine-2-carboxylic acid and 3-amino-N-cyclopropyl-4-methylbenzamide according to the method described for Example 1; NMR Spectrum: (DMSOd6) 0.58 (m, 2H), 0.69 (m, 2H), 2.32 (s, 3H), 2.86 (m, 1H), 5.32 (s, 2H), 7.39 (m, 4H), 7.51 (m, 2H), 7.57 (m, 1H), 7.71 (m, 1H), 8.13 (m, 1H), 8.22 (m, 1H), 8.36 (m, 1H), 8.48 (s, 1H), 10.16 (s, 1H); Mass Spectrum: M+Na+424.

reactant | 5-(benzyloxy)pyridine-2-carboxylic acid | C(C1=CC=CC=C1)OC=1C=CC(=NC1)C(=O)O | C13H11NO3
reactant | 3-amino-N-cyclopropyl-4-methylbenzamide | NC=1C=C(C(=O)NC2CC2)C=CC1C | C11H14N2O
product | 5-(benzyloxy)-N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}pyridine-2-carboxamide | C(C1=CC=CC=C1)OC=1C=CC(=NC1)C(=O)NC1=C(C=CC(=C1)C(=O)NC1CC1)C | C24H23N3O3
